US08536203B2
A solution of 4-(3,4-bis(benzyloxy)-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)thiazole (0.146 g, 0.26 mmol), in dichloromethane (10 mL) was cooled to −78° C. and treated under argon, with boron tribromide (0.26 g, 1.03 mmol). The resulting deep purple suspension was then allowed to stir at room temperature for one hour before cooling again to −78° C. The mixture was quenched by careful addition of methanol. After stirring at room temperature for thirty minutes, the volatiles were evaporated and the residue stirred with 2 N hydrochloric acid (5 mL) for thirty minutes. The resulting solid was filtered off, washed with water (25 mL) and then cold isopropanol (5 mL) to give 3-nitro-5-(2-(2-(trifluoromethyl)pyridin-3-yl)thiazol-4-yl)benzene-1,2-diol as a yellow solid, 0.087 g (87%).

reactant | 4-(3,4-bis(benzyloxy)-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)thiazole | 0.26 mmol, 0.146 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-])C=1N=C(SC1)C=1C(=NC=CC1)C(F)(F)F | C29H20F3N3O4S
reactant | boron tribromide | 1.03 mmol, 0.26 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-nitro-5-(2-(2-(trifluoromethyl)pyridin-3-yl)thiazol-4-yl)benzene-1,2-diol | [N+](=O)([O-])C1=C(C(=CC(=C1)C=1N=C(SC1)C=1C(=NC=CC1)C(F)(F)F)O)O | C15H8F3N3O4S
